data/oMe_Silver.jsonl
{"reaction_id": "NR-142_1-CC(C)C_2-c1ccc(Cl)cc1_3-C","name": "Meisenheimer Rearrangement","level": "medium","reactants_smiles": ["[N+]([O-])(CC(C)C)(c1ccc(Cl)cc1)(C)"],"products_smiles": ["N(OCC(C)C)(c1ccc(Cl)cc1)(C)"],"conditions": "Heat","mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "N(OCC(C)C)(c1ccc(Cl)cc1)(C)","rationale": "Thermal energy promotes a concerted [2,3]-sigmatropic shift, favored by the N-oxide’s ability to delocalize electron density and stabilize the transition state through resonance between nitrogen and oxygen."}],"description": "Upon heating, the N-oxide undergoes a [2,3]-sigmatropic rearrangement (Meisenheimer rearrangement), shifting the CC(C)C group from nitrogen to oxygen. This pericyclic process is thermally allowed and driven by the formation of a strong N–O bond and relief of electronic strain."}
{"reaction_id": "NR-110_1-C_2-P(=O)(c1ccccc1)c2ccccc2_3-CC_4-C1CCCCC1","name": "Horner-Wadsworth-Emmons Reaction","level": "medium","reactants_smiles": ["P(=O)(OC)(OC)C(P(=O)(c1ccccc1)c2ccccc2)CC","O=CC1CCCCC1"],"products_smiles": ["C(C1CCCCC1)=C(P(=O)(c1ccccc1)c2ccccc2)CC"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "P(=O)(OC)(OC)[C-](P(=O)(c1ccccc1)c2ccccc2)CC","rationale": "The base abstracts the acidic α-proton next to the phosphonate due to strong electron-withdrawing effects of the P=O group, stabilizing the resulting carbanion via resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "P(=O)(OC)(OC)C(P(=O)(c1ccccc1)c2ccccc2)(CC)C([O-])C1CCCCC1","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COP1([O-])(OC)C(P(=O)(c1ccccc1)c2ccccc2)(CC)C(C1CCCCC1)O1","rationale": "Intramolecular attack of the alkoxide on phosphorus forms a four-membered oxaphosphetane, favored by proximity and the strong P–O bond formation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C1CCCCC1)=C(P(=O)(c1ccccc1)c2ccccc2)CC","rationale": "The oxaphosphetane collapses, eliminating the phosphate group as a stable leaving group, driven by formation of the thermodynamically stable C=C bond."}],"description": "Under basic conditions, the Horner–Wadsworth–Emmons reaction proceeds via deprotonation of the phosphonate to form a stabilized carbanion, nucleophilic attack on the aldehyde, cyclization to an oxaphosphetane intermediate, and elimination to yield the alkene product with high selectivity."}
